.subckt oa221_x1 A1 A2 B1 B2 C X VDD VSS
XOA2210_NA10 oa221_mid A1 oai221_n1 VSS nmos w=1u l=100n
XOA2210_NA20 oa221_mid A2 oai221_n1 VSS nmos w=1u l=100n
XOA2210_NB10 oai221_n1 B1 oai221_n2 VSS nmos w=1u l=100n
XOA2210_NB20 oai221_n1 B2 oai221_n2 VSS nmos w=1u l=100n
XOA2210_NC0 oai221_n2 C VSS VSS nmos w=1u l=100n
XOA2210_PA10 oai221_p1a A1 VDD VDD pmos w=2u l=100n
XOA2210_PA20 oa221_mid A2 oai221_p1a VDD pmos w=2u l=100n
XOA2210_PB10 oai221_p1b B1 VDD VDD pmos w=2u l=100n
XOA2210_PB20 oa221_mid B2 oai221_p1b VDD pmos w=2u l=100n
XOA2210_PC0 oa221_mid C VDD VDD pmos w=2u l=100n
XOA221OUT0_P0 X oa221_mid VDD VDD pmos w=2u l=100n
XOA221OUT0_N0 X oa221_mid VSS VSS nmos w=1u l=100n
.ends oa221_x1
